US05280026
(b) 2-(2-methylphenylamino)-4-chlorothieno[3,2-d]-pyrimidine
2-(2-Methylphenylamino)-4-hydroxythieno[3,2-d]-pyrimidine (2 g, 0.0078 mol) and phosphorus oxychloride (20 ml) were heated under reflux for 1 hour. The solution was poured onto ice, basified with concentrated NH3 solution, and extracted with dichloromethane (3×100 ml). The dichloromethane extracts were combined, dried over magnesium sulphate and evaporated to give a yellow solid, 2.08 g. Recrystallization from methanol gave an analytically pure sample, m.p. 87°-89°.

reactant | 2-(2-Methylphenylamino)-4-hydroxythieno[3,2-d]-pyrimidine | 0.0078 mol, 2 g | CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CS2)O | C13H11N3OS
reactant | NH3 | N | H3N
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2-methylphenylamino)-4-chlorothieno[3,2-d]-pyrimidine | CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)C=CS2)Cl | C13H10ClN3S
